* BJT Common Emitter Amplifier
Vcc vcc 0 12V
Vin in 0 SIN(0 10m 1k)
R1 vcc base 47k
R2 base 0 10k
Rc vcc coll 3.3k
Re emit 0 1k
Ce emit 0 10u
Cin in base 10u
Cout coll out 10u
Q1 coll base emit 0 2N2222
RL out 0 10k
.model 2N2222 NPN
.tran 5m
.end
